US08859592B2
A solution of 4-(hydroxyimino-methyl-1-methyl-1H-indazole-7-carboxylic acid methyl ester (1.4 g) in dimethyl formamide (50 ml) was treated with N-chlorosuccinimide (0.85 g) and stirred at 50° C. for 3 h under nitrogen atmosphere. Then reaction mixture was cooled to room temperature and treated with 1,3-dichloro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene (1.43 g) (prepared according to WO 2005/085216) and triethylamine (0.8 ml), stirred at room temperature for 16 h under nitrogen atmosphere, and treated with water (50 ml). The solid appeared was filtered and purified by column chromatograph (hexane/ethyl acetate 20:80) to give 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-1-methyl-1H-indazole-7-carboxylic acid methyl ester (1.1 g). 1H-NMR (400 MHz, DMSO): 8.47 (s, 1H), 7.95 (d, 1H), 7.82 (d, 1H), 7.68 (s, 2H), 7.51 (d, 1H), 4.52 (dd, 2H), 4.09 (s, 3H), 3.97 (s, 3H). LC-MS (methanol): m/z=471 (M+H).

reactant | hydroxyimino-methyl-1-methyl-1H-indazole-7-carboxylic acid methyl ester | 1.4 g | COC(=O)C=1C=CC(C2=C(NN(C12)C)C)=NO | C11H13N3O3
reactant | N-chlorosuccinimide | 0.85 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1,3-dichloro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 1.43 g | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-1-methyl-1H-indazole-7-carboxylic acid methyl ester | 1.1 g | COC(=O)C=1C=CC(=C2C=NN(C12)C)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H14Cl2F3N3O3
